US07342030B2
To a solution of [4-(4-[1,2,3]Triazol-1-yl-butyl)-phenyl]-carbamic acid tert-butyl ester (0.297 g, 0.94 mmol) in N,N-dimethyl formamide (5 ml) sodium hydride (0.050 g, 2.1 mmol) was added and the mixture stirred for 30 min at r.t. To this mixture a solution of 2-(4-chloromethyl-oxazol-2-yl)-5-trifluoromethoxy-1H-indole 0.3 g, 0.94 mmol) in N,N-dimethyl formamide (5 ml) was added and stirring continued for 16 h. The mixture was then poured on water (25 ml) and extracted with ethyl acetate (3×25 ml). The combined organic extracts was washed with water, brine and dried over sodium sulfate. After concentration in vacuo the crude product was purified on silica gel (iso-hexanes/ethyl acetate 1:2) to yield [4-(4-[1,2,3]Triazol-1-yl-butyl)-phenyl]-[2-(5-trifluoromethoxy-1H-indol-2-yl)-oxazol-4-ylmethyl]-carbamic acid tert-butyl ester as light yellow solid.

reactant | [4-(4-[1,2,3]Triazol-1-yl-butyl)-phenyl]-carbamic acid tert-butyl ester | 0.94 mmol, 0.297 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)CCCCN1N=NC=C1)=O | C17H24N4O2
reactant | 2-(4-chloromethyl-oxazol-2-yl)-5-trifluoromethoxy-1H-indole | 0.94 mmol, 0.3 g | ClCC=1N=C(OC1)C=1NC2=CC=C(C=C2C1)OC(F)(F)F | C13H8ClF3N2O2
solvent | N,N-dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl formamide | 2.1 mmol, 5 ml, 0.050 g | CN(C=O)C | C3H7NO
product | [4-(4-[1,2,3]Triazol-1-yl-butyl)-phenyl]-[2-(5-trifluoromethoxy-1H-indol-2-yl)-oxazol-4-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC=1N=C(OC1)C=1NC2=CC=C(C=C2C1)OC(F)(F)F)C1=CC=C(C=C1)CCCCN1N=NC=C1)=O | C30H31F3N6O4
